US07517910B2
methyl 4-[(3-tert-butyl-5-{[4-(methoxycarbonyl)benzyl]oxy}-1H-pyrazol-1-yl)methyl]benzoate
A mixture of 5-tert-butyl-2,4-dihydro-3H-pyrazol-3-one (5.00 g, 35.7 mmol), methyl 4-(bromomethyl)benzoate (17.16 g, 74.91 mmol), potassium carbonate (10.5 g, 76.0 mmol) and N,N-dimethylformamide (50 mL) was stirred overnight at 60° C. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:3) to give the title compound (6.90 g, yield 44%) as a colorless oil. melting point 93-94° C.

reactant | 5-tert-butyl-2,4-dihydro-3H-pyrazol-3-one | 35.7 mmol, 5.00 g | C(C)(C)(C)C=1CC(NN1)=O | C7H12N2O
reactant | methyl 4-(bromomethyl)benzoate | 74.91 mmol, 17.16 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | potassium carbonate | 76.0 mmol, 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 4-[(3-tert-butyl-5-{[4-(methoxycarbonyl)benzyl]oxy}-1H-pyrazol-1-yl)methyl]benzoate | 6.90 g, yield 44% | C(C)(C)(C)C1=NN(C(=C1)OCC1=CC=C(C=C1)C(=O)OC)CC1=CC=C(C(=O)OC)C=C1 | C25H28N2O5
